US07067658B2
(R)-[4-(5-fluoro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine (0.16 g, 0.44 mmol) and Na2S2O4 (1.15 g, 6.6 mmol) were treated as in Part E of Example 9 to give 0.15 g (98%) crude (R)-4-(5-Fluoro-4-methoxy-2-methyl-phenyl)-N2-(1-methoxymethyl-propyl)-pyridine-2,3-diamine. MS (AP) m/z 334.3 [(M+H)+, 100].

reactant | (R)-[4-(5-fluoro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine | 0.44 mmol, 0.16 g | FC=1C(=CC(=C(C1)C1=C(C(=NC=C1)N[C@H](CC)COC)[N+](=O)[O-])C)OC | C18H22FN3O4
reactant | Na2S2O4 | 6.6 mmol, 1.15 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
product | (R)-4-(5-Fluoro-4-methoxy-2-methyl-phenyl)-N2-(1-methoxymethyl-propyl)-pyridine-2,3-diamine | 0.15 g, 98% | FC=1C(=CC(=C(C1)C1=C(C(=NC=C1)N[C@H](CC)COC)N)C)OC | C18H24FN3O2
